US08372842B2
DIEA (0.055 mL, 0.32 mmol) was added to a solution of (S)-3-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)propane-1,2-diol dihydrochloride (0.050 g, 0.079 mmol), (R)-2-(tert-butoxycarbonylamino)-3-(4-chlorophenyl)propanoic acid (0.024 g, 0.079 mmol) and TBTU (0.031 g, 0.095 mmol) in DCM (1 mL) and stirred at room temperature for 1 hour. The reaction was then concentrated to dryness, and the residue was dissolved in THF/MeOH (2 mL, 1:1), and an aqueous LiOH solution (1 mL, 2 M) was added. The reaction was then stirred for an additional 10 minutes. Ethyl acetate (20 mL) was added, and the organic layer was separated, washed with brine (10 mL), and dried over sodium sulfate. After removal of the solvent, the resulting residue was purified by column chromatography (ethyl acetate:MeOH, 20:1) to give tert-butyl(R)-3-(4-chlorophenyl)-1-(4-(3-((S)-2,3-dihydroxypropoxy)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate as a solid. The solid was then dissolved in DCM (1 mL), and TFA (0.4 mL) was added. The mixture was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was dissolved in DCM (0.5 mL), and HCl in ether (1 mL, 2 N) was added. The resulting solid was collected by filtration to give (R)-2-amino-3-(4-chlorophenyl)-1-(4-(3-((S)-2,3-dihydroxypropoxy)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (0.018 g, 36%). MS APCI (+) m/z 551.2 detected.

reactant | DIEA | 0.32 mmol, 0.055 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)propane-1,2-diol dihydrochloride | 0.079 mmol, 0.050 g | Cl.Cl.C1(=CC=CC=C1)C=1C(=C2C(=NC1)NN=C2OC[C@H](CO)O)N2CCNCC2
reactant | (R)-2-(tert-butoxycarbonylamino)-3-(4-chlorophenyl)propanoic acid | 0.079 mmol, 0.024 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
reactant | TBTU | 0.095 mmol, 0.031 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(R)-3-(4-chlorophenyl)-1-(4-(3-((S)-2,3-dihydroxypropoxy)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C1=C2C(=NC=C1C1=CC=CC=C1)NN=C2OC[C@H](CO)O)NC(OC(C)(C)C)=O | C33H39ClN6O6
